US06921777B2
c) 4-Fluoro-3-methylphenylselenyl Bromide
Bromine (0.048 ml, 0.93 mmol) is added to a solution of 4-fluoro-3-methylphenyl diselenide (0.94 mmol) in THF (1 ml). The mixture is stirred at room temperature for 2 h and the solvent is then removed with a strong stream of nitrogen.

reactant | Bromine | 0.93 mmol, 0.048 ml | BrBr | Br2
reactant | 4-fluoro-3-methylphenyl diselenide | 0.94 mmol | FC1=C(C=C(C=C1)[Se][Se]C1=CC(=C(C=C1)F)C)C | C14H12F2Se2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4-Fluoro-3-methylphenylselenyl Bromide | FC1=C(C=C(C=C1)[Se]Br)C | C7H6BrFSe
